US09120791B2
Step A: Methyl pyrrolo[1,2-a]pyrazine-8-carboxylate
To a solution of 10 g (65.7 mmol) of methyl pyrazin-2-ylacetate in 263 mL of anhydrous acetone (4 mL/mmol) there are added in succession 5.7 g of lithium bromide (65.7 mmol), 22.1 g of sodium bicarbonate (263 mmol) and then 9.4 mL of chloroacetaldehyde (50% solution in water) (72.6 mmoles). The whole is subsequently heated at reflux overnight. The reaction mixture is subsequently concentrated to dryness and then taken up in ethyl acetate. The organic phase is washed with a saturated sodium chloride solution, dried over magnesium sulphate, filtered and then concentrated to dryness. There is obtained an oil, which is purified by chromatography over silica gel (CH2Cl2/ethyl acetate gradient). After concentration, the title product is obtained in the form of a solid.

reactant | methyl pyrazin-2-ylacetate | 65.7 mmol, 10 g | N1=C(C=NC=C1)CC(=O)OC | C7H8N2O2
reactant | lithium bromide | 65.7 mmol, 5.7 g | [Br-].[Li+]
reactant | sodium bicarbonate | 263 mmol, 22.1 g | C([O-])(O)=O.[Na+]
reactant | chloroacetaldehyde | 72.6 mmoles, 9.4 mL | ClCC=O | C2H3ClO
solvent | acetone | 263 mL | CC(=O)C | C3H6O
product | Methyl pyrrolo[1,2-a]pyrazine-8-carboxylate | C=1C=2N(C=CN1)C=CC2C(=O)OC | C9H8N2O2
